// Gm / OTA loaded AC testbench (Cadence Spectre + configurable_gm.va).
//
// Run via:
//   python scripts/run_gm_ac.py --simulator spectre --output-dir outputs/spectre

simulator lang=spectre

ahdl_include "./veriloga/configurable_gm.va"

parameters gm_s=1m
parameters rout_ohm=1Meg
parameters cout_f=500f
parameters f_start=1
parameters f_stop=100Meg
parameters dec=10

VDD (vdd 0) vsource dc=1.8
VSS (vss 0) vsource dc=0.0

VIN (inp 0) vsource dc=0 type=sine ampl=0 freq=0 \
    acmag=1 acphase=0
VINN (inn 0) vsource dc=0 type=dc

XGM (inp inn iout vdd vss) configurable_gm \
    GM_S=gm_s ROUT_OHM=rout_ohm COUT_F=cout_f

save iout
ac ac start=f_start stop=f_stop dec=dec annotate=status
